US06677368B2
To the suspension of 4-(2-chloro-phenyl)-1H-indole (2.4 g, 10.6 mmol) in t-BuOH:ethanol:acetic acid (67 mL:40 mL:21 mL) was added pyridinium tribromide (10.5 g, 32 mmol) portionwise. The mixture was stirred at room temperature for 3 hours, and then to the mixture was added acetic acid (52 mL). Zinc dust (3.5 g, 53 mmol) was added to the reaction mixture portionwise. After stirring for one hour, any unreacted zinc was filtered off and most of the solvent was removed under reduced pressure. The residue was diluted with ethyl acetate, washed with water (3×), sat. NaHCO3, brine, dried over Na2SO4, concentrated and triturated with ether to give 1.96 g (76%) of 4-(2-chloro-phenyl)-1,3-dihydro-indol-2-one.

reactant | 4-(2-chloro-phenyl)-1H-indole | 10.6 mmol, 2.4 g | ClC1=C(C=CC=C1)C1=C2C=CNC2=CC=C1 | C14H10ClN
reactant | ethanol | C(C)O | C2H6O
reactant | acetic acid | 67 mL | C(C)(=O)O | C2H4O2
reactant | pyridinium tribromide | 32 mmol, 10.5 g | [Br-].[Br-].[Br-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | acetic acid | 52 mL | C(C)(=O)O | C2H4O2
solvent | t-BuOH | CC(C)(C)O | C4H10O
catalyst | Zinc | 53 mmol, 3.5 g | [Zn] | Zn
product | 4-(2-chloro-phenyl)-1,3-dihydro-indol-2-one | 1.96 g, 76% | ClC1=C(C=CC=C1)C1=C2CC(NC2=CC=C1)=O | C14H10ClNO
